* File: ring_osc.pex.spi.pex
* Created: Tue Apr 15 12:12:30 2025
* Program "Calibre xRC"
* Version "v2019.3_15.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_RING_OSC_IN 5 8 9 13 14 20 28 36 40
c0 58 0 0.755373f
c1 57 0 0.0322086f
c2 54 0 0.0494685f
c3 49 0 0.0111496f
c4 48 0 0.0111496f
c5 46 0 0.0988022f
c6 44 0 0.0885402f
c7 40 0 0.118091f
c8 36 0 0.0708496f
c9 32 0 0.0738215f
c10 30 0 0.0746661f
c11 28 0 0.110086f
c12 25 0 0.025989f
c13 23 0 0.0163829f
c14 20 0 0.0683027f
c15 17 0 0.585392f
r16 57 58 0.0493891
r17 56 57 8
r18 52 54 0.0480891
r19 44 52 8
r20 43 46 6.2234
r21 43 44 13.2552
r22 38 40 47.5
r23 34 36 21.75
r24 33 49 0.990414
r25 32 38 5.02856
r26 32 33 25.5
r27 31 48 0.990414
r28 30 34 5.02856
r29 30 31 25.5
r30 26 49 3.81101
r31 26 28 47.5
r32 25 49 3.81101
r33 24 46 4.73303
r34 24 25 11
r35 23 46 4.73303
r36 22 48 3.81101
r37 22 23 7
r38 18 48 3.81101
r39 18 20 21.75
r40 17 56 0.2038
r41 16 17 16.3327
r42 14 16 4.88298
r43 13 16 4.88298
r44 12 56 0.304
r45 11 12 5.44423
r46 9 11 1.53
r47 8 11 1.53
r48 5 58 2.5454
r49 5 54 0.4602
.ends

.subckt PM_RING_OSC_NET0 7 8 12 13 19 27 35 39
c0 54 0 0.14842f
c1 48 0 0.0114429f
c2 47 0 0.0114429f
c3 45 0 0.107699f
c4 43 0 0.106838f
c5 39 0 0.118091f
c6 35 0 0.0708496f
c7 31 0 0.0785086f
c8 29 0 0.0777483f
c9 27 0 0.118089f
c10 24 0 0.0259891f
c11 22 0 0.0164518f
c12 19 0 0.0708478f
c13 16 0 0.179641f
c14 11 0 0.391025f
c15 6 0 0.0346765f
r16 43 54 0.0532817
r17 42 45 6.2234
r18 42 43 13.2552
r19 37 39 47.5
r20 33 35 21.75
r21 32 48 0.990414
r22 31 37 5.02856
r23 31 32 25.5
r24 30 47 0.990414
r25 29 33 5.02856
r26 29 30 25.5
r27 25 48 3.81101
r28 25 27 47.5
r29 24 48 3.81101
r30 23 45 4.73303
r31 23 24 11
r32 22 45 4.73303
r33 21 47 3.81101
r34 21 22 7
r35 17 47 3.81101
r36 17 19 21.75
r37 15 16 16.3327
r38 13 15 4.88298
r39 12 15 4.88298
r40 10 11 5.44423
r41 8 10 1.53
r42 7 10 1.53
r43 5 11 0.296
r44 5 6 0.020636
r45 4 16 0.1658
r46 4 6 0.020636
r47 3 6 0.0165808
r48 3 54 0.538696
.ends

.subckt PM_RING_OSC_NET1 7 8 12 13 19 27 35 39
c0 54 0 0.14842f
c1 48 0 0.0114429f
c2 47 0 0.0114429f
c3 45 0 0.107699f
c4 43 0 0.106838f
c5 39 0 0.118091f
c6 35 0 0.0708496f
c7 31 0 0.0785086f
c8 29 0 0.0777483f
c9 27 0 0.118089f
c10 24 0 0.0259891f
c11 22 0 0.0164518f
c12 19 0 0.0708478f
c13 16 0 0.184456f
c14 11 0 0.395794f
c15 6 0 0.0346765f
r16 43 54 0.0532817
r17 42 45 6.2234
r18 42 43 13.2552
r19 37 39 47.5
r20 33 35 21.75
r21 32 48 0.990414
r22 31 37 5.02856
r23 31 32 25.5
r24 30 47 0.990414
r25 29 33 5.02856
r26 29 30 25.5
r27 25 48 3.81101
r28 25 27 47.5
r29 24 48 3.81101
r30 23 45 4.73303
r31 23 24 11
r32 22 45 4.73303
r33 21 47 3.81101
r34 21 22 7
r35 17 47 3.81101
r36 17 19 21.75
r37 15 16 16.3327
r38 13 15 4.88298
r39 12 15 4.88298
r40 10 11 5.44423
r41 8 10 1.53
r42 7 10 1.53
r43 5 11 0.296
r44 5 6 0.020636
r45 4 16 0.1658
r46 4 6 0.020636
r47 3 6 0.0165808
r48 3 54 0.538696
.ends

.subckt PM_RING_OSC_NET2 7 8 12 13 19 27 35 39
c0 54 0 0.14842f
c1 48 0 0.0114429f
c2 47 0 0.0114429f
c3 45 0 0.107699f
c4 43 0 0.106838f
c5 39 0 0.118091f
c6 35 0 0.0708496f
c7 31 0 0.0785086f
c8 29 0 0.0777483f
c9 27 0 0.118089f
c10 24 0 0.0259891f
c11 22 0 0.0164518f
c12 19 0 0.0708478f
c13 16 0 0.184456f
c14 11 0 0.395794f
c15 6 0 0.0346765f
r16 43 54 0.0532817
r17 42 45 6.2234
r18 42 43 13.2552
r19 37 39 47.5
r20 33 35 21.75
r21 32 48 0.990414
r22 31 37 5.02856
r23 31 32 25.5
r24 30 47 0.990414
r25 29 33 5.02856
r26 29 30 25.5
r27 25 48 3.81101
r28 25 27 47.5
r29 24 48 3.81101
r30 23 45 4.73303
r31 23 24 11
r32 22 45 4.73303
r33 21 47 3.81101
r34 21 22 7
r35 17 47 3.81101
r36 17 19 21.75
r37 15 16 16.3327
r38 13 15 4.88298
r39 12 15 4.88298
r40 10 11 5.44423
r41 8 10 1.53
r42 7 10 1.53
r43 5 11 0.296
r44 5 6 0.020636
r45 4 16 0.1658
r46 4 6 0.020636
r47 3 6 0.0165808
r48 3 54 0.538696
.ends

.subckt PM_RING_OSC_NET3 7 8 12 13 19 27 35 39
c0 54 0 0.14842f
c1 48 0 0.0114429f
c2 47 0 0.0114429f
c3 45 0 0.107533f
c4 43 0 0.108367f
c5 39 0 0.110086f
c6 35 0 0.0683027f
c7 31 0 0.0734193f
c8 29 0 0.0734066f
c9 27 0 0.118089f
c10 24 0 0.0262615f
c11 22 0 0.0164813f
c12 19 0 0.0708478f
c13 16 0 0.184456f
c14 11 0 0.395794f
c15 6 0 0.0346765f
r16 43 54 0.0532817
r17 42 45 6.2234
r18 42 43 13.2552
r19 37 39 47.5
r20 33 35 21.75
r21 32 48 0.990414
r22 31 37 5.02856
r23 31 32 25.5
r24 30 47 0.990414
r25 29 33 5.02856
r26 29 30 25.5
r27 25 48 3.81101
r28 25 27 47.5
r29 24 48 3.81101
r30 23 45 4.73303
r31 23 24 11
r32 22 45 4.73303
r33 21 47 3.81101
r34 21 22 7
r35 17 47 3.81101
r36 17 19 21.75
r37 15 16 16.3327
r38 13 15 4.88298
r39 12 15 4.88298
r40 10 11 5.44423
r41 8 10 1.53
r42 7 10 1.53
r43 5 11 0.296
r44 5 6 0.020636
r45 4 16 0.1658
r46 4 6 0.020636
r47 3 6 0.0165808
r48 3 54 0.538696
.ends

.subckt PM_RING_OSC_VSS 9 16 77 82 87 92 97 102 107 112 117 122
c0 169 0 0.029975f
c1 166 0 0.0369917f
c2 163 0 0.0369917f
c3 160 0 0.0369917f
c4 157 0 0.0369946f
c5 125 0 0.076448f
c6 120 0 0.0836927f
c7 115 0 0.0806356f
c8 110 0 0.0836927f
c9 105 0 0.0806356f
c10 100 0 0.0836927f
c11 95 0 0.0806356f
c12 90 0 0.0836927f
c13 85 0 0.0806356f
c14 80 0 0.0890506f
c15 75 0 0.051764f
c16 19 0 0.0526322f
c17 12 0 0.0899516f
c18 10 0 0.0899516f
c19 6 0 0.0899516f
c20 4 0 0.0899516f
r21 125 154 0.1212
r22 124 125 16.3327
r23 122 124 4.88298
r24 120 151 0.1212
r25 119 120 16.3327
r26 117 119 4.88298
r27 115 148 0.1212
r28 114 115 16.3327
r29 112 114 4.88298
r30 110 145 0.1212
r31 109 110 16.3327
r32 107 109 4.88298
r33 105 142 0.1212
r34 104 105 16.3327
r35 102 104 4.88298
r36 100 139 0.1212
r37 99 100 16.3327
r38 97 99 4.88298
r39 95 136 0.1212
r40 94 95 16.3327
r41 92 94 4.88298
r42 90 133 0.1212
r43 89 90 16.3327
r44 87 89 4.88298
r45 85 130 0.1212
r46 84 85 16.3327
r47 82 84 4.88298
r48 80 127 0.1212
r49 79 80 16.3327
r50 77 79 4.88298
r51 75 154 0.00770322
r52 75 169 0.0296412
r53 74 75 16.3327
r54 71 169 0.103
r55 71 170 0.103
r56 67 151 0.00770322
r57 67 170 0.0296412
r58 66 67 16.3327
r59 63 148 0.00770322
r60 63 166 0.0296412
r61 62 63 16.3327
r62 59 166 0.103
r63 59 167 0.103
r64 55 145 0.00770322
r65 55 167 0.0296412
r66 54 55 16.3327
r67 51 142 0.00770322
r68 51 163 0.0296412
r69 50 51 16.3327
r70 47 163 0.103
r71 47 164 0.103
r72 43 139 0.00770322
r73 43 164 0.0296412
r74 42 43 16.3327
r75 39 136 0.00770322
r76 39 160 0.0296412
r77 38 39 16.3327
r78 35 160 0.103
r79 35 161 0.103
r80 31 133 0.00770322
r81 31 161 0.0296412
r82 30 31 16.3327
r83 27 130 0.00770322
r84 27 157 0.0296412
r85 26 27 16.3327
r86 23 157 0.103
r87 23 158 0.103
r88 19 127 0.00770322
r89 19 158 0.0296412
r90 18 19 16.3327
r91 16 74 12.9375
r92 16 66 12.9375
r93 16 71 16.3327
r94 16 62 12.9375
r95 16 54 12.9375
r96 16 59 16.3327
r97 16 50 12.9375
r98 16 42 12.9375
r99 16 47 16.3327
r100 16 38 12.9375
r101 16 30 12.9375
r102 16 35 16.3327
r103 16 26 12.9375
r104 16 18 12.9375
r105 16 23 16.3327
r106 13 63 0.0296412
r107 12 67 0.0296412
r108 12 13 0.224
r109 11 51 0.0296412
r110 10 55 0.0296412
r111 10 11 0.224
r112 7 39 0.0296412
r113 7 9 0.142
r114 6 43 0.0296412
r115 6 9 0.082
r116 5 27 0.0296412
r117 4 31 0.0296412
r118 4 5 0.224
.ends

.subckt PM_RING_OSC_VDD 9 16 17 22 27 32 37 42 47 52 57 62
c0 139 0 0.0293854f
c1 136 0 0.0327308f
c2 133 0 0.0327308f
c3 130 0 0.0327308f
c4 127 0 0.0327309f
c5 125 0 0.051764f
c6 69 0 0.0521837f
c7 65 0 0.166519f
c8 60 0 0.172159f
c9 55 0 0.168081f
c10 50 0 0.172159f
c11 45 0 0.168081f
c12 40 0 0.172159f
c13 35 0 0.168081f
c14 30 0 0.172159f
c15 25 0 0.168081f
c16 20 0 0.177436f
c17 12 0 0.0835055f
c18 10 0 0.0835055f
c19 6 0 0.0835055f
c20 4 0 0.0835055f
r21 125 160 0.00770322
r22 125 139 0.0296412
r23 124 125 16.3327
r24 121 139 0.103
r25 121 140 0.103
r26 117 158 0.00770322
r27 117 140 0.0296412
r28 116 117 16.3327
r29 113 156 0.00770322
r30 113 136 0.0296412
r31 112 113 16.3327
r32 109 136 0.103
r33 109 137 0.103
r34 105 154 0.00770322
r35 105 137 0.0296412
r36 104 105 16.3327
r37 101 152 0.00770322
r38 101 133 0.0296412
r39 100 101 16.3327
r40 97 133 0.103
r41 97 134 0.103
r42 93 150 0.00770322
r43 93 134 0.0296412
r44 92 93 16.3327
r45 89 148 0.00770322
r46 89 130 0.0296412
r47 88 89 16.3327
r48 85 130 0.103
r49 85 131 0.103
r50 81 146 0.00770322
r51 81 131 0.0296412
r52 80 81 16.3327
r53 77 144 0.00770322
r54 77 127 0.0296412
r55 76 77 16.3327
r56 73 127 0.103
r57 73 128 0.103
r58 69 142 0.00770322
r59 69 128 0.0296412
r60 68 69 16.3327
r61 65 160 0.229
r62 64 65 5.44423
r63 62 64 1.53
r64 60 158 0.229
r65 59 60 5.44423
r66 57 59 1.53
r67 55 156 0.229
r68 54 55 5.44423
r69 52 54 1.53
r70 50 154 0.229
r71 49 50 5.44423
r72 47 49 1.53
r73 45 152 0.229
r74 44 45 5.44423
r75 42 44 1.53
r76 40 150 0.229
r77 39 40 5.44423
r78 37 39 1.53
r79 35 148 0.229
r80 34 35 5.44423
r81 32 34 1.53
r82 30 146 0.229
r83 29 30 5.44423
r84 27 29 1.53
r85 25 144 0.229
r86 24 25 5.44423
r87 22 24 1.53
r88 20 142 0.229
r89 19 20 5.44423
r90 17 19 1.53
r91 16 124 12.9375
r92 16 116 12.9375
r93 16 121 16.3327
r94 16 112 12.9375
r95 16 104 12.9375
r96 16 109 16.3327
r97 16 100 12.9375
r98 16 92 12.9375
r99 16 97 16.3327
r100 16 88 12.9375
r101 16 80 12.9375
r102 16 85 16.3327
r103 16 76 12.9375
r104 16 68 12.9375
r105 16 73 16.3327
r106 13 113 0.0296412
r107 12 117 0.0296412
r108 12 13 0.224
r109 11 101 0.0296412
r110 10 105 0.0296412
r111 10 11 0.224
r112 7 89 0.0296412
r113 7 9 0.087
r114 6 93 0.0296412
r115 6 9 0.137
r116 5 77 0.0296412
r117 4 81 0.0296412
r118 4 5 0.224
.ends

